US04125726
A mixture of 4.02 g (0.01 mole) of 8-chloro-6-(2-chlorophenyl)-1,2-dihydro-1-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, methyl ester, 150 ml of methanol, 15 ml of water and 2 g (0.035 mole) of potassium hydroxide was heated to reflux for 5 hours under a nitrogen atmosphere. The solution was then concentrated down to 40 ml, acidified by addition of 4 ml of glacial acetic acid and crystallized by diluting with water. The precipitate was collected, dried and recrystallized from tetrahydrofuran/methanol/ethyl acetate to yield 8-chloro-6-(2-chlorophenyl)-1,2-dihydro-1-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid which was decarboxylated as follows: A solution of 1 g of this acid in 5 ml of ethylene glycol was heated to reflux for 45 min and then partitioned between methylene chloride and saturated sodium bicarbonate solution. The organic layer was washed with bicarbonate solution and water, dried and evaporated. Crystallization of the residue from ethyl acetate/ether gave end product which was further purified by chromatography over 20 g silica gel using methylene chloride/ethyl acetate 1:3. Crystallization from ethyl acetate/ether yielded the pure colorless product with mp 236°-238°. nmr (CDCl3) δ 4.15 ppm (broad d, 1) and 4.86 (broad d, 1) (AB-system, J= 13 Hz, C4 -H) 6.25 (d, 1, J=2 Hz, C3 -H) 6.98 (d, 1, J=2.5 Hz, C7 -H) 7.1-7.7 (m, 5, aromatic H) 8.0 (d, 1, J=8 Hz, C10 -H) 10.4 (broad s, 1, NH).

reactant | 8-chloro-6-(2-chlorophenyl)-1,2-dihydro-1-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, methyl ester | 0.01 mole, 4.02 g | ClC=1C=CC2=C(C(=NCC=3N2C(NC3C(=O)OC)=O)C3=C(C=CC=C3)Cl)C1 | C19H13Cl2N3O3
reactant | methanol | 150 ml | CO | CH4O
reactant | potassium hydroxide | 0.035 mole, 2 g | [OH-].[K+]
solvent | water | 15 ml | O | H2O
product | 8-chloro-6-(2-chlorophenyl)-1,2-dihydro-1-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | ClC=1C=CC2=C(C(=NCC=3N2C(NC3C(=O)O)=O)C3=C(C=CC=C3)Cl)C1 | C18H11Cl2N3O3
